US05250517
2,2,2-Trichloroethoxycarbonyl-L-phenylalanine
L-phenylalanine was reacted with 2,2,2-trichloroethyl chloroformate in a 2N sodium bicarbonate solution, and after the usual working-up there was obtained the desired acid as crystals, melting point 126° (from methylene chloride/hexane).

reactant | L-phenylalanine | N[C@@H](CC1=CC=CC=C1)C(=O)O | C9H11NO2
reactant | 2,2,2-trichloroethyl chloroformate | ClC(=O)OCC(Cl)(Cl)Cl | C3H2Cl4O2
reactant | sodium bicarbonate | 2N | C([O-])(O)=O.[Na+]
solvent | methylene chloride hexane | C(Cl)Cl.CCCCCC
product | 2,2,2-Trichloroethoxycarbonyl-L-phenylalanine | ClC(COC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O)(Cl)Cl | C12H12Cl3NO4
